* C:\GitHub\Robotic_Manipulator_HSPS\hardware\simulations\ltspice_circuits\Draft2.asc
* Generated by LTspice 24.1.10 for Windows.
X§U1 N002 N001 0 0 N003 N003 0 INA240A1 ;§pnba OUT)INP)INN)REF1)REF2)VCC)GND
R1 N001 0 6.75m
I1 0 N001 1
V1 N003 0 3.3
V2 N001 0 SINE(0 1 OUT)
* .tran 0.0001
.noise V(OUT) V1 dec 100 1 100Meg
.lib C:\GitHub\Robotic_Manipulator_HSPS\hardware\simulations\spice_models\amplifier\INA240\ina240a1.lib
.backanno
.end
